transistor-level CMOS AND gate
* ngspice 46 .op validation, va/vb driven at 0V or 5V:
*   00: out=1.2525e-08, nand=5
*   01: out=1.2525e-08, nand=5
*   10: out=1.2525e-08, nand=5
*   11: out=5,          nand=5.01e-08
* NAND stage: parallel PMOS pull-up and series NMOS pull-down.
mpa nand a vdd vdd pmod
mpb nand b vdd vdd pmod
mna nand a nseries 0 nmod
mnb nseries b 0 0 nmod
* Inverter stage converts NAND to AND.
mpinv out nand vdd vdd pmod
mninv out nand 0 0 nmod
* Supplies and input drivers; the harness rewrites va/vb over all four vectors.
vddsrc vdd 0 dc 5
va a 0 dc 0
vb b 0 dc 0
.model nmod nmos (level=1 vto=1 kp=100u lambda=0)
.model pmod pmos (level=1 vto=-1 kp=50u lambda=0)
.op
.end
